US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carbaldehyde
To a solution of 1-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one (0.40 g, 1.07 mmol) in dichloromethane (50 mL) was added Dess-Mertin periodinane (0.60 g, 1.40 mmol). The reaction mixture was stirred for 6 hours at ambient temperature, and then diluted with ethyl acetate, washed with 10% sodium thiosulfate solution, saturated sodium bicarbonate solution and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to afford the title compound in 80% yield (0.32 g): MS (ES+) m/z 370.1 (M+1).

reactant | 1-(5-(hydroxymethyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 1.07 mmol, 0.40 g | OCC1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C | C16H16F3N3O2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiazole-5-carbaldehyde | 80% yield | CC=1N=C(SC1C=O)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3N3O2S
